US08865713B2
Step D: 1-(5-Piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-[1-(2-methoxy-ethoxymethyl)-5-piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.300 g, 0.586 mmol), glacial acetic acid (5.9 mL), and 6M aqueous HCl (6.9 mL) was heated at 100° C. for 4.5 h in a sealed tube. The reaction mixture was cooled to 23° C. and then 0° C. The resulting precipitate was filtered and washed with cold water to yield the titled compound (60.0 mg, 26%). MS (ESI/CI): mass calcd. for C17H16F3N6O3, 395.1; m/z found, 396.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 8.84 (d, J=0.6 Hz, 1H), 8.27 (d, J=0.6 Hz, 1H), 7.47 (br s, 1H), 7.21 (br s, 1H), 2.98-2.89 (m, 4H), 1.71-1.59 (m, 4H), 1.58-1.47 (m, 2H).

reactant | 1-[1-(2-methoxy-ethoxymethyl)-5-piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.586 mmol, 0.300 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)N2CCCCC2)OC(F)(F)F | C23H28F3N5O5
reactant | HCl | 6M, 6.9 mL | Cl | ClH
solvent | acetic acid | 5.9 mL | C(C)(=O)O | C2H4O2
product | 1-(5-Piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 60.0 mg, 26% | N1(CCCCC1)C1=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C=C1OC(F)(F)F | C17H16F3N5O3
